US07981903B2
A mixture of 6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline (0.19 g, 0.91 mmol) and triethylamine (0.5 mL, 3.7 mmol, Aldrich) in dichloromethane was treated with dropwise addition of bromoacetyl chloride (0.33 mL, 4.0 mmol, Fluka). A catalytic amount of 4-dimethylaminopyridine was added and the reaction stirred overnight. The mixture was diluted with saturated aqueous ammonium chloride and extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered, and concentrated to give 1-(bromoacetyl)-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline which was taken directly to the next step without determination of yield. RF=0.3 (50% EtOAc/hexanes).

reactant | 6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline | 0.91 mmol, 0.19 g | COC=1C=C2CCCNC2=CC1[N+](=O)[O-] | C10H12N2O3
reactant | triethylamine | 3.7 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl chloride | 4.0 mmol, 0.33 mL | BrCC(=O)Cl | C2H2BrClO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ammonium chloride | [Cl-].[NH4+]
product | 1-(bromoacetyl)-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline | BrCC(=O)N1CCCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C12H13BrN2O4
